US09216980B2
Step 4: 1-Benzenesulfonyl-5-bromo-2-{[cyanomethyl-(toluene-4-sulfonyl)amino]-methyl}-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid methyl ester
Sodium hydride (48 mg, 60% dispersion in mineral oil, 12.0 mmol) was added to a cooled (0° C.) mixture of 1-benzenesulfonyl-5-bromo-2-bromomethyl-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid methyl ester (0.56 g, 1.16 mmol) and N-cyanomethyl-4-methyl-benzenesulfonamide (0.25 g, 1.20 mmol) in dry THF (3.5 mL). The reaction mixture was stirred at 0° C. for 15 minutes, then allowed to warm to ambient temperature and stirred for 18 h. The reaction mixture was then diluted with DCM (40 mL), saturated aqueous sodium carbonate solution (20 mL) and water (20 mL). The organic phase was separated, washed with brine, dried over anhydrous magnesium sulfate and concentrated in vacuo. The resultant residue was purified by flash column chromatography (silica, 5 g cartridge, Si-SPE, DCM) to afford the title compound as a beige solid (0.59 g, 80%). LCMS (Method B): RT=4.28 min, M+H+=617/619.

reactant | Sodium hydride | 12.0 mmol, 48 mg | [H-].[Na+]
reactant | 1-benzenesulfonyl-5-bromo-2-bromomethyl-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid methyl ester | 1.16 mmol, 0.56 g | COC(=O)C1=C(N(C2=NC=C(C=C21)Br)S(=O)(=O)C2=CC=CC=C2)CBr | C16H12Br2N2O4S
reactant | N-cyanomethyl-4-methyl-benzenesulfonamide | 1.20 mmol, 0.25 g | C(#N)CNS(=O)(=O)C1=CC=C(C=C1)C | C9H10N2O2S
solvent | THF | 3.5 mL | C1CCOC1 | C4H8O
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
solvent | sodium carbonate | 20 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 20 mL | O | H2O
product | 1-Benzenesulfonyl-5-bromo-2-{[cyanomethyl-(toluene-4-sulfonyl)amino]-methyl}-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid methyl ester | 0.59 g, 80% | COC(=O)C1=C(N(C2=NC=C(C=C21)Br)S(=O)(=O)C2=CC=CC=C2)CN(S(=O)(=O)C2=CC=C(C=C2)C)CC#N | C25H21BrN4O6S2
